US06107297
i) 1-Bromo-3-propylbenzene
A solution of 3'-bromopropiophenone (25 g) and triethylsilane (57 ml) in trifluoroacetic acid (50ml) was heated at reflux for 16 hours. The reaction mixture was evaporated under reduced pressure and the residue was purified by chromatography eluting with isohexane. Yield 25.14 g. The subtitle compound was contaminated with 17 mole % of 3-(1-propenyl)bromobenzene. Used directly in the next step. 1H NMR: δ(CDCl3) 7.32(m,2H), 7.10(m,2H), 2.55(t,2H), 1.61(m,2H), 0.90(t3H).

reactant | 3'-bromopropiophenone | 25 g | BrC=1C=C(C=CC1)C(CC)=O | C9H9BrO
reactant | triethylsilane | 57 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 50ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Bromo-3-propylbenzene | BrC1=CC(=CC=C1)CCC | C9H11Br
